US07553854B2
Step 4. Synthesis of 4-(7-bromo-2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide
To the solution of 7-bromo-2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-ol (50 mg, 0.145 mmol, 1.0 eq) in 1 mL of NMP was added 4-chloro-N-methylpicolinamide (29 mg, 0.174 mmol, 1.2 eq) and cesium carbonate (165 mg, 0.507 mmol, 3.5 eq) at room temperature. The reaction mixture was stirred at 80° C. for ca. 12 hours, thereafter the mixture was purified on the reverse phase HPLC. LC/MS (m/z) [479.0] (MH+)

reactant | 7-bromo-2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-ol | 0.145 mmol, 50 mg, 1.0 eq | BrC1=C(C=CC=2N=C(SC21)N[C@H]2[C@@H](CCCC2)O)O | C13H15BrN2O2S
reactant | 4-chloro-N-methylpicolinamide | 0.174 mmol, 29 mg, 1.2 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | cesium carbonate | 0.507 mmol, 165 mg, 3.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 4-(7-bromo-2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | BrC1=C(C=CC=2N=C(SC21)N[C@H]2[C@@H](CCCC2)O)OC2=CC(=NC=C2)C(=O)NC | C20H21BrN4O3S
